US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-(2-cyano-ethyl)-N-ethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid with 3-ethylamino-propionitrile

reactant | [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C19H23NO4S
reactant | 3-ethylamino-propionitrile | C(C)NCCC#N | C5H10N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-(2-cyano-ethyl)-N-ethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CCC#N)C1=CC=C(C=C1)C | C24H31N3O3S
